US04753922
Ten grams of 8-amino-2-naphthol were added to a mixture of acetic anhydride/formic acid (40 mL:20 mL). The mixture was warmed at 50° C. for one hour and then quenched on ice. After stirring for some time, the product solidified and was filtered off. Recrystallization from ethanol gave 6 g of 8-formamido-2-naphthol melting at 203°-205° C.

reactant | 8-amino-2-naphthol | Ten grams | NC=1C=CC=C2C=CC(=CC12)O | C10H9NO
reactant | acetic anhydride formic acid | 40 mL | C(C)(=O)OC(C)=O.C(=O)O
product | 8-formamido-2-naphthol | 6 g | C(=O)NC=1C=CC=C2C=CC(=CC12)O | C11H9NO2
